US05346730
Preparation of 2-trifluoromethylpropan-2-oxy-copper-t-butyl isonitrile
An equimolar quantity of t-butyl isonitrile was added to 3.5 g of 2-trifluoromethylpropan-2-oxy-copper prepared according to Example 2 in benzene. The mixture was stirred further until the suspended solid had completely dissolved. Then readily volatile constituents were evaporated. The yield of 2-trifluoromethylpropan-2-oxy-copper-t-butyl isonitrile was approximately quantitative.

reactant | t-butyl isonitrile | C(C)(C)(C)[N+]#[C-] | C5H9N
reactant | 2-trifluoromethylpropan-2-oxy-copper | 3.5 g | FC(C(C)(C)O[Cu])(F)F
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-trifluoromethylpropan-2-oxy-copper t-butyl isonitrile | FC(C(C)(C)O[Cu])(F)F.C(C)(C)(C)[N+]#[C-] | InChI=1S/C5H9N.C4H6F3O.Cu/c1-5(2,3)6-4;1-3(2,8)4(5,6)7;/h1-3H3;1-2H3;/q;-1;+1
